US06815458B2
4-Methylbenzylimino-tropane (47AKU-38)
4-Methylbenzylamine (1.21 g, 10 mmol) and Tropinone (1.39 g, 10 mmol) were placed in 100 ml flask and dissolved in 50 ml toluene. Mixture was heated to reflux for 3 hrs and water was removed using a Dean/Stark water-separator. Crude product was concentrated on Rotavapor (40° C.) giving 47AKU-38. TLC (10% methanol in dichloromethane): Rf=0.3. 1H-NMR (400 MHz, CDCl3, isomers): 7.20-7.09 (4H, m); 4.47 (1H, m); 3.81 (1H, s); 3.42 (1H, m); 3.31 (1H, m); 2.77-2.56 (2H, m); 2.47 and 2.41 (3H, 2s); 2.33 and 2.31 (3H, 2s); 2.27-1.97 (4H, m); 1.69-1.54 (2H, m).

reactant | 4-Methylbenzylamine | 10 mmol, 1.21 g | CC1=CC=C(CN)C=C1 | C8H11N
reactant | Tropinone | 10 mmol, 1.39 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | methanol | CO | CH4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Methylbenzylimino-tropane | CC1CC([C@H]2CC[C@@H]1N2C)=NCC2=CC=CC=C2 | C16H22N2
